US04430346
Into 30 ml of methanol, was dissolved 1.5 g (20 mmoles) of 3-amino-1-propanol followed by the addition of 4.8 g (20 mmoles) of S-tert-butoxycarbonyl-4,6-dimethyl-2-mercaptopyrimdine (a product of Kokusan Kagaku Co.). After stirring for 6 hours, the reaction mixture was evaporated to drynes, dissolved in 200 ml of chloroform, and washed with 200 ml of water. The chloroform layer was concentrated and subjected to column chromatography using 300 g of silica gel (Wako Gel® C-200) and a toluene-ethyl acetate (1:1 by volume) mixture as a developing solvent. The Fraction Nos. 82 to 151 (each 15 ml in volume) were combined and evaporated to obtain 2.95 g (84% yield) of 3-tert-butoxycarbonylamino-1-propanol in the form of colorless oil.

reactant | 3-amino-1-propanol | 20 mmoles, 1.5 g | NCCCO | C3H9NO
reactant | S-tert-butoxycarbonyl-4,6-dimethyl-2-mercaptopyrimdine | 20 mmoles, 4.8 g | C(C)(C)(C)OC(=O)SC1=NC(=CC(=N1)C)C | C11H16N2O2S
solvent | methanol | 30 ml | CO | CH4O
product | 3-tert-butoxycarbonylamino-1-propanol | 2.95 g, 84% yield | C(C)(C)(C)OC(=O)NCCCO | C8H17NO3
